US04939133
The 4-[2-(3,4-dibenzyloxyphenyl)ethyl]benzenamine (4.5 g, 11 mmole) is dissolved in toluene (75 ml) containing formic acid (0.51 g, 11 mmole) and refluxed for two hours. The reaction mixture is evaporated to dryness, and the residue is recrystallized from toluene to afford 4.7 g (97%) of N-formyl-4-[2-(3,4-dibenyloxyphenyl)ethyl]benzeneamine, mp 119°-122° C.

reactant | 4-[2-(3,4-dibenzyloxyphenyl)ethyl]benzenamine | 11 mmole, 4.5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CCC1=CC=C(C=C1)N | C28H27NO2
reactant | formic acid | 11 mmole, 0.51 g | C(=O)O | CH2O2
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | N-formyl-4-[2-(3,4-dibenyloxyphenyl)ethyl]benzeneamine | 4.7 g, 97% | C(=O)NC1=CC=C(C=C1)CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C29H27NO3
